US07476663B2
(b) 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylic acid
Prepared analogously to Example 1e from methyl 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylate in methanol with 1-normal sodium hydroxide solution.

reactant | methyl 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylate | BrC1=CC=C(S1)C(=O)NC1(CCCC1)C(=O)OC | C12H14BrNO3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylic acid | BrC1=CC=C(S1)C(=O)NC1(CCCC1)C(=O)O | C11H12BrNO3S
